US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-bromo-benzenesulfonamide
2-Amino-5-chlorobenzophenone (5.33 g, 23 mmol) was dissolved in 100 mL pyridine and stirred at room temperature. 4-Bromobenzenesulfonyl chloride (6.17 g, 24.1 mmol) was added and the mixture was stirred overnight. The mixture was poured in a steady stream into 350 mL vigorously stirring chilled 6M HCl which resulted in the precipitation of a reddish oil. The solution was diluted with 100 mL EtOAc and 200 mL H2O, shaken in a separating funnel and the aqueous layer discarded. The organics were dried and reduced in vacuo to yield title compound (10.2 g, 98%). 1H NMR (400 MHz, CDCl3): δ 7.34 (m, 5H), 7.43–7.48 (m, 5H), 7.62 (t, 1H), 7.74 (d, 1H), 9.62 (s, 1H). MS: m/z=449.9 (M++1).

reactant | 2-Amino-5-chlorobenzophenone | 23 mmol, 5.33 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | 4-Bromobenzenesulfonyl chloride | 24.1 mmol, 6.17 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | HCl | 6M | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 200 mL | O | H2O
product | N-(2-Benzoyl-4-chloro-phenyl)-4-bromo-benzenesulfonamide | 10.2 g, 98% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)Br | C19H13BrClNO3S
